US06613775B1
Synthesis of ethyl 8-Amino-3-methylimidazo[1,2-a]pyridin-2-carboxylate
A solution of 2,3-diaminopyridine (6.8 g, 62 mmol) and 3-bromo-2-oxo-butyric acid ethyl ester (13 g, 62 mmol) in 1,2-dimethoxyethane (150 ml) was refluxed for 2 h. Sodium carbonate (6.5 g, 62 mmol) was added and the mixture was refluxed for 2 h. The solids were isolated by filtration and washed with dichloromethane:methanol (10:1). The filtrate and washings were combined the solvents were removed under reduced pressure. The oily residue was washed with petroleum ether and was purified twice by column chromatography on silica gel using 1) dichloromethane:methanol (10:1) 2) ethyl acetate as eluent to give 4.6 g (34%) of the title compound.

reactant | 2,3-diaminopyridine | 62 mmol, 6.8 g | NC1=NC=CC=C1N | C5H7N3
reactant | 3-bromo-2-oxo-butyric acid ethyl ester | 62 mmol, 13 g | C(C)OC(C(C(C)Br)=O)=O | C6H9BrO3
reactant | Sodium carbonate | 62 mmol, 6.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
product | ethyl 8-Amino-3-methylimidazo[1,2-a]pyridin-2-carboxylate | 4.6 g, 34% | NC=1C=2N(C=CC1)C(=C(N2)C(=O)OCC)C | C11H13N3O2
